US09255090B2
A mixture of AD-mix-alpha (7.0 g) in tBuOH (23 mL) and water (23 mL) was stirred at r.t. during 15 min. The mixture was then cooled down to 0° C. and 4-chlorostyrene (0.64 mL, 5.0 mmol, 1.0 eq.) was added. The resulting heterogeneous slurry was stirred vigorously at 0° C. for 3 hours. Sodium sulfite (7.5 g, 59.5 mmol, 11.9 eq.) was added and the reaction mixture was allowed to warm to r.t. and stirred at that temperature for 1 hour. DCM (45 mL) was added and the layers were separated. The aq. phase was extracted with DCM (3×20 mL). The combined org. layers were dried over MgSO4, filtered, and concentrated in vacuo. The residue was dissolved in DCM (12 mL). Trimethyl orthoacetate (0.85 ml, 6.5 mmol, 1.3 eq.) was added and the mixture was cooled down to 0° C. Chlorotrimethylsilane (0.83 mL, 6.5 mmol, 1.3 eq.) was added dropwise and the reaction mixture was stirred for 1.5 hour. The solvent was removed in vacuo and the residue was dissolved in MeOH, treated with K2CO3 (0.86 g) and stirred vigorously at r.t. for 18 hours. The suspension was filtered and the filter cake was washed with DCM. The filtrate was concentrated in vacuo. The resulting residue was dissolved in DCM and water was added. The layers were separated and the aq. phase was extracted once with DCM. The combined org. layers were dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by flashmaster (column: 100 g, flow: 45 mL/min, 28 fractions of 45 mL, Heptane 100% to Heptane+10% AcOEt) to yield (S)-2-(4-chloro-phenyl)-oxirane as a colorless oil.

reactant | AD-mix-alpha | 7.0 g | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | 4-chlorostyrene | 5.0 mmol, 0.64 mL, 1.0 eq. | ClC1=CC=C(C=C)C=C1 | C8H7Cl
reactant | Sodium sulfite | 59.5 mmol, 7.5 g, 11.9 eq. | S(=O)([O-])[O-].[Na+].[Na+]
reactant | Trimethyl orthoacetate | 6.5 mmol, 0.85 ml, 1.3 eq. | C(C)(OC)(OC)OC | C5H12O3
reactant | Chlorotrimethylsilane | 6.5 mmol, 0.83 mL, 1.3 eq. | Cl[Si](C)(C)C | C3H9ClSi
solvent | tBuOH | 23 mL | CC(C)(C)O | C4H10O
solvent | water | 23 mL | O | H2O
solvent | DCM | 45 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(4-chloro-phenyl)-oxirane | ClC1=CC=C(C=C1)[C@@H]1OC1 | C8H7ClO
